US07645760B2
(E)-3-[4Chloro-5-(2-methoxyethoxy)-2-nitrophenyl]-acrylic acid methyl ester (910 mg; 2.88 mmol) was dissolved in MeOH (160 ml)/HClconc (50 ml). SnCl2 (7.4 g; 39 mmol) was added and the reaction mixture stirred for 1 h at room temperature, poured on saturated Na2CO3 and extracted with TBME three times. The combined organic phases were dried over Na2SO4 and evaporated to dryness to yield the intermediate (E)-3-[2-amino-4-chloro-5-(2-methoxyethoxy)-phenyl]acrylic acid methyl ester (740 mg; 90%).

reactant | (E)-3-[4Chloro-5-(2-methoxyethoxy)-2-nitrophenyl]-acrylic acid methyl ester | 2.88 mmol, 910 mg | COC(\C=C\C1=C(C=C(C(=C1)OCCOC)Cl)[N+](=O)[O-])=O | C13H14ClNO6
reactant | SnCl2 | 39 mmol, 7.4 g | Cl[Sn]Cl
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 160 ml | CO | CH4O
product | (E)-3-[2-amino-4-chloro-5-(2-methoxyethoxy)-phenyl]acrylic acid methyl ester | 740 mg, 90% | COC(\C=C\C1=C(C=C(C(=C1)OCCOC)Cl)N)=O | C13H16ClNO4
